US07238808B2
5-Bromo-thiophene-2-sulfonic acid (pyridin-4-ylmethyl)-amide
To a stirred solution of 4-aminomethyl-pyridine (1.24 g, 11.5 mmol) in THF (8 ml) was added at 0° C. (ice water bath) commercially available 5-bromo-thiophene-2-sulfonyl chloride (1.0 g, 3.82 mmol) dissolved in THF (8 ml) and triethylamine (0.59 ml, 4.21 mmol). The reaction mixture was stirred at room temperature for 16 h and evaporated. The crude product was further purified by flash chromatography (dichloromethane/methanol) and crystallization from dichloromethane/hexane to yield the title compound (1.21 g, 95%) as a white solid. MS (ISN) 330.8 [(M−H)−], mp 159° C.

reactant | 4-aminomethyl-pyridine | 11.5 mmol, 1.24 g | NCC1=CC=NC=C1 | C6H8N2
reactant | 5-bromo-thiophene-2-sulfonyl chloride | 3.82 mmol, 1.0 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 4.21 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-Bromo-thiophene-2-sulfonic acid (pyridin-4-ylmethyl)-amide | 1.21 g, 95% | N1=CC=C(C=C1)CNS(=O)(=O)C=1SC(=CC1)Br | C10H9BrN2O2S2
